US04822793
7-Methanesulphonamido-3-(6-methanesulphonamidoquinol-2-ylmethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine
The title compound, m.p. 207°-210°, was prepared similarly to the procedure of Example 1 starting from 7-amino-3-(6-aminoquinol-2-ylmethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine and methanesulphonyl chloride in pyridine.

reactant | 7-amino-3-(6-aminoquinol-2-ylmethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine | NC1=CC2=C(CCN(CC2)CC2=NC3=CC=C(C=C3C=C2)N)C=C1 | C20H22N4
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7-Methanesulphonamido-3-(6-methanesulphonamidoquinol-2-ylmethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine | CS(=O)(=O)NC1=CC2=C(CCN(CC2)CC2=NC3=CC=C(C=C3C=C2)NS(=O)(=O)C)C=C1 | C22H26N4O4S2
